US08258160B2
Preparation of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide
To a solution of 2-amino-4-methylthiazole-5-carboxylic acid (0.86 g, 5.44 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added 1-hydroxy-benzotriazole (0.96 g, 7.07 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (1.36 g, 7.07 mmol), N,N-diisopropylethylamine (2.46 mL, 14.14 mmol) and benzylamine (0.71 mL, 6.53 mmol). The reaction mixture was stirred at ambient temperature for 18 hours, diluted with dichloromethane (30 mL) and washed with saturated aqueous sodium bicarbonate (15 mL) and brine (15 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (20-35% ethyl acetate in hexanes) to afford the title compound as a white solid (1.02 g, 76%): 1H NMR (300 MHz, DMSO-d6) δ 8.01 (t, J=6.0 Hz, 1H), 7.36-71.9 (m, 7H), 4.34 (d, J=6.0 Hz, 2H), 2.34 (s, 3H); MS (ES+) m/z 248.2 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid | 5.44 mmol, 0.86 g | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
reactant | 1-hydroxy-benzotriazole | 7.07 mmol, 0.96 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 7.07 mmol, 1.36 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | N,N-diisopropylethylamine | 14.14 mmol, 2.46 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzylamine | 6.53 mmol, 0.71 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 1.02 g, 76% | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
